US07179823B1
Sodium hydride (60%, oily, 60.0 mg) was added to a solution of ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate (524 mg) in N,N-dimethylformamide (10 ml) at 0° C., and the mixture was stirred at room temperature for 15 minutes. 4-Chloromethyl-2-(2-thienyl)thiazole (324 mg) was added to the mixture, which was stirred at room temperature for 30 minutes. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[4-phenyl-1-[4-[2-(2-thienyl)-4-thiazolylmethoxy]benzyl]-3-pyrrolyl]propionate (590 mg, yield: 74%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (1:3, volume ratio).

reactant | Sodium hydride | 60.0 mg | [H-].[Na+]
reactant | ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate | 524 mg | OC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C1 | C22H23NO3
reactant | 4-Chloromethyl-2-(2-thienyl)thiazole | 324 mg | ClCC=1N=C(SC1)C=1SC=CC1 | C8H6ClNS2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[4-phenyl-1-[4-[2-(2-thienyl)-4-thiazolylmethoxy]benzyl]-3-pyrrolyl]propionate | 590 mg, yield: 74% | C1(=CC=CC=C1)C=1C(=CN(C1)CC1=CC=C(C=C1)OCC=1N=C(SC1)C=1SC=CC1)CCC(=O)OCC | C30H28N2O3S2
